US07745451B2
6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
A mixture of 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one (5.0 g, 0.02 mol), phosphoryl chloride (3.30 mL, 0.035 mol) and acetonitrile (80 mL) and DMF (catalytic amount) was heated to at 70° C. for 1 hour. The mixture was reduced in vacuo and the remaining black residue was taken up in dichloromethane (250 ml) and poured over ice. The mixture was carefully neutralized with the addition of solid sodium bicarbonate. The layers were separated and the organic dried over sodium sulfate and reduced in vacuo. The mixture was chromatographed using an ethyl acetate:hexanes (0-100%) gradient on an isco flash chromatography system. The combined pure fractions were reduced in vacuo to yield the title compound as a yellow oil (3 g, 57.8%).

reactant | 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one | 0.02 mol, 5.0 g | C(C1=CC=CC=C1)N1CC2=C(N=CNC2=O)CC1 | C14H15N3O
reactant | phosphoryl chloride | 0.035 mol, 3.30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetonitrile | 80 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 3 g, 57.8% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
